US07728029B2
To a solution of 2′-methyl-2′H-[1,3′]bipyrazolyl-4′-carboxylic acid ethyl ester (340 mg, 1.54 mmol) in CH3OH (5 mL) and water (55 mL) was added LiOH (41 mg, 1.71 mmol). The reaction mixture was stirred at reflux for 4 h, and then the solution was concentrated under reduced pressure to remove the methanol. The residue was diluted with water and the solution was acidified to pH 2 with concentrated HCl. The resulting mixture was then extracted three times with ethyl acetate. The combined organic extracts were concentrated in vacuo to give 2′-methyl-2′H-[1,3′]bipyrazolyl-4′-carboxylic acid (300 mg, quantitative), which was used without further purification.

reactant | 2′-methyl-2′H-[1,3′]bipyrazolyl-4′-carboxylic acid ethyl ester | 1.54 mmol, 340 mg | C(C)OC(=O)C1=C(N(N=C1)C)N1N=CC=C1 | C10H12N4O2
reactant | LiOH | 1.71 mmol, 41 mg | [Li+].[OH-]
solvent | CH3OH | 5 mL | CO | CH4O
solvent | water | 55 mL | O | H2O
product | 2′-methyl-2′H-[1,3′]bipyrazolyl-4′-carboxylic acid | 300 mg | CN1N=CC(=C1N1N=CC=C1)C(=O)O | C8H8N4O2
